US08486962B2
A solution of N-(2,2-dimethoxyethyl)-2-dimethylamino-5-nitro benzamide (1.1 g, 3.7 mmol) in methane sulphonic acid (5 ml) was added to a slurry of phosphorus pentoxide (2.6 g, 18.51 mmol) in methane sulphonic acid (15 ml) and refluxed overnight. The reaction mixture was cooled to room temperature, poured onto ice water, and then basified with dilute sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to a residue. Purification by chromatography over silica gel using 5-30% ethyl acetate/pet ether gave dimethyl-(4-nitro-2-oxazol-2-yl-phenyl)-amine (150 mg, 60%) as solid.

reactant | N-(2,2-dimethoxyethyl)-2-dimethylamino-5-nitro benzamide | 3.7 mmol, 1.1 g | COC(CNC(C1=C(C=CC(=C1)[N+](=O)[O-])N(C)C)=O)OC | C13H19N3O5
reactant | phosphorus pentoxide | 18.51 mmol, 2.6 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methane sulphonic acid | 5 ml | CS(=O)(=O)O | CH4O3S
solvent | methane sulphonic acid | 15 ml | CS(=O)(=O)O | CH4O3S
product | dimethyl-(4-nitro-2-oxazol-2-yl-phenyl)-amine | 150 mg, 60% | CN(C1=C(C=C(C=C1)[N+](=O)[O-])C=1OC=CN1)C | C11H11N3O3
